US05393735
While kept under N2, 0.30 g (7.4 mmol) of sodium hydride (60% dispersion in oil) was washed with 1 ml pentanes and then suspended in 2 ml anhydrous dimethylformamide. A solution of 1.36 g (6.9 mmol) of 6-amino-7-fluoro-2-methyl-2H-1,4-benzoxazin-3(4H)-one in 10 ml of dimethylformamide was added to the sodium hydride slurry slowly by syringe with ice cooling and the reaction mixture was stirred at room temperature for 0.5 hr. There was then added 0.77 ml (8.6 mmol) of propargyl bromide by syringe with ice bath cooling. The reaction mixture was allowed to warm to room temperature, stirred for 84 hours and then poured into 50 ml of water. The resulting mixture was extracted with EtOAc (2×50 ml) and the organic layers were combined and washed with water (3×50 ml), dried over MgSO4 and filtered. The solvent was removed in vacuo to yield a golden solid which was recrystallized from chloroform to yield 0.66 g of 6-amino-7-fluoro-2-methyl-4-propargyl-2H-1,4-benzoxazin-3(4H)-one as a brown solid, m.p. 142°-145° C.

reactant | sodium hydride | 7.4 mmol, 0.30 g | [H-].[Na+]
reactant | 6-amino-7-fluoro-2-methyl-2H-1,4-benzoxazin-3(4H)-one | 6.9 mmol, 1.36 g | NC=1C(=CC2=C(NC(C(O2)C)=O)C1)F | C9H9FN2O2
reactant | propargyl bromide | 8.6 mmol, 0.77 ml | C(C#C)Br | C3H3Br
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-amino-7-fluoro-2-methyl-4-propargyl-2H-1,4-benzoxazin-3(4H)-one | 0.66 g | NC=1C(=CC2=C(N(C(C(O2)C)=O)CC#C)C1)F | C12H11FN2O2
